US07176224B2
C. 2-(3-Trifluoromethylphenoxy)-3-(4-hydroxyphenyl)-2-methyl-propionic acid ethyl ester
3-(4-Benzyloxyphenyl)-2-methyl-3-(2,2,2-trifluoroacetoxy)-2-(3-trifluoromethylphenoxy)-propionic acid ethyl ester (2.1 mmol) was dissolved in ethyl acetate (30 mL) and treated with 5% palladium on carbon (300 mg), and stirred under an atmosphere of hydrogen for 20 h. The suspension was filtered through celite and concentrated in vacuo to an oil.

reactant | 3-(4-Benzyloxyphenyl)-2-methyl-3-(2,2,2-trifluoroacetoxy)-2-(3-trifluoromethylphenoxy)-propionic acid ethyl ester | 2.1 mmol | C(C)OC(C(C(OC(C(F)(F)F)=O)C1=CC=C(C=C1)OCC1=CC=CC=C1)(OC1=CC(=CC=C1)C(F)(F)F)C)=O | C28H24F6O6
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 300 mg | [Pd] | Pd
product | 2-(3-Trifluoromethylphenoxy)-3-(4-hydroxyphenyl)-2-methyl-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)O)(C)OC1=CC(=CC=C1)C(F)(F)F)=O | C19H19F3O4
